US05036153
(1S, 4S)-2-Methyl-2,5-diazabicyclo-[2.2.1]-heptane, dihydrobromide
60 g (225 mmol) of (1S, 4S)-2-(4-Toluenesul- fonyl)-5-methyl-2,5-diazabicyclo-[2.2.1]heptane was suspended in 900 ml of 30% hydrogen bromide in acetic acid and the mixture was allowed to stir at room temperature. After 6 hours the acetic acid was removed under aspirator pressure to 1/4 of the original volume and 1800 ml of ethylacetate was then added. A solid precipitated and was filtered under an inert atmosphere. The product was recrystallized by dissolving in a minimum amount of methanol at reflux. Cooling followed by the addition of 400 ml of isopropyl alcohol provided a white solid which was filtered and dried under reduced pressure. The product weighed 48 g which represents an 81% yield. M.P.=258°-259° C. (coloration occurs at 234° C.) [α]D =+13.21° (c=0.946, CH3OH)

reactant | (1S, 4S)-2-(4-Toluenesul- fonyl)-5-methyl-2,5-diazabicyclo-[2.2.1]heptane | 225 mmol, 60 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H]2CN([C@H](C1)C2)C)C | C13H18N2O2S
reactant | hydrogen bromide | 900 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (1S, 4S)-2-Methyl-2,5-diazabicyclo-[2.2.1]-heptane, dihydrobromide | 81% yield | Br.Br.CN1[C@@H]2CN[C@H](C1)C2 | InChI=1S/C6H12N2.2BrH/c1-8-4-5-2-6(8)3-7-5;;/h5-7H,2-4H2,1H3;2*1H/t5-,6-;;/m0../s1
